US05086055
3-Methyl-5-[2-[4-(2-Methylphenyl)-1-Piperazinyl]Ethyl]-2-Oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 3.5 g (0.02 mol) of 1-(2-methylphenyl)piperazine (Emka-Chemie), 3.3 g (0.02 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 6.4 g (0.06 mol) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 100 mL of 1-butanol gave 3.5 g (50%) of white solid, mp 55°-57° C. (isopropyl ether/2-propanol).

reactant | 1-(2-methylphenyl)piperazine | 0.02 mol, 3.5 g | CC1=C(C=CC=C1)N1CCNCC1 | C11H16N2
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.02 mol, 3.3 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.06 mol, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
reactant | isopropyl ether 2-propanol | C(C)(C)OC(C)C.CC(C)O
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
product | 3-Methyl-5-[2-[4-(2-Methylphenyl)-1-Piperazinyl]Ethyl]-2-Oxazolidinone | 3.5 g, 50% | CN1C(OC(C1)CCN1CCN(CC1)C1=C(C=CC=C1)C)=O | C17H25N3O2
